US04025542
A mixture of 12.7 g of acetyl methanesulfonate and 9.15 g of trioxymethylene diacetate was prepared at 0° C. and then stirred at 25° C. for 20 hours. Distillation at 10μ produced 4.5 g of CH3SO3CH2OCH2OSO2CH3, b.p. 110°-115° C. (pot temp.); m.p. 57°-59° C.

reactant | acetyl methanesulfonate | 12.7 g | CS(=O)(=O)OC(C)=O | C3H6O4S
reactant | trioxymethylene diacetate | 9.15 g | C(C)(=O)OOOOCOC(C)=O | C5H8O7
product | CH3SO3CH2OCH2OSO2CH3 | 4.5 g | CS(=O)(=O)OCOCOS(=O)(=O)C | C4H10O7S2
